US08084448B2
E. 3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenoxy]-1,3,4,5-tetrahydro-benzo[b]azepin-2-one
A solution of 3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenoxy]-1,3,4,5-tetrahydro-benzo[b]azepin-2-one (244 mg) in 30 mL of EtOH/HOAc (2:1) is hydrogenated at 1 atm over Pd/C (100 mg) for 4 h. The catalyst is filtered and the filtrate evaporated. The residual solid is triturated with ether to give the title compound: (M−1)−=402.

reactant | 3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenoxy]-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | 244 mg | C(C1=CC=CC=C1)OC=1C=C(OC2CCC3=C(NC2=O)C=CC=C3)C=CC1N1S(NC(C1)=O)(=O)=O | C25H23N3O6S
solvent | EtOH HOAc | 30 mL | CCO.CC(=O)O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenoxy]-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | OC=1C=C(OC2CCC3=C(NC2=O)C=CC=C3)C=CC1N1S(NC(C1)=O)(=O)=O | C18H17N3O6S
